2155-05-10 07:02:00 Physician Resident Progress Note
Chief Complaint: septic shock
   24 Hour Events:
 EKG - At [**2155-5-9**] 05:58 PM
 MULTI LUMEN - START [**2155-5-9**] 06:25 PM
   right subclavian line inserted [**5-9**]
 BLOOD CULTURED - At [**2155-5-9**] 07:24 PM
 URINE CULTURE - At [**2155-5-9**] 07:24 PM
 RECTAL SWAB - At [**2155-5-9**] 07:24 PM
 BLOOD CULTURED - At [**2155-5-9**] 07:41 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-5-9**] 09:40 PM
   Metronidazole - [**2155-5-10**] 04:00 AM
   Piperacillin - [**2155-5-10**] 05:00 AM
   Infusions:
   Phenylephrine - 3.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2155-5-10**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 115 (101 - 134) bpm
   BP: 119/50(62) {78/26(40) - 119/72(78)} mmHg
   RR: 26 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 16 (7 - 20)mmHg
   Total In:
                                                                  1,653 mL
                                                                  1,580 mL
   PO:
   TF:
   IVF:
                                                                  1,653 mL
                                                                  1,580 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                    210 mL
   Urine:
                                                                    280 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,373 mL
                                                                  1,370 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.36/46/91.[**Numeric Identifier 96**]/26/0
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irregullar, tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   286 K/uL
   12.6 g/dL
   119 mg/dL
   1.7 mg/dL
   26 mEq/L
   5.1 mEq/L
   49 mg/dL
   103 mEq/L
   137 mEq/L
   39.3 %
   34.8 K/uL
        [image002.jpg]
                             [**2155-5-9**]  06:37 PM
                             [**2155-5-9**]  09:47 PM
                             [**2155-5-10**]  12:25 AM
                             [**2155-5-10**]  04:00 AM
                             [**2155-5-10**]  04:59 AM
   WBC
   34.8
   Hct
   40.9
   39.3
   Plt
   295
   286
   Cr
   1.7
   1.7
   TCO2
   26
   27
   27
   Glucose
   83
   119
   Other labs: PT / PTT / INR:26.5/33.8/2.6, ALT / AST:36/61, Alk Phos / T
   Bili:313/1.7, Differential-Neuts:86.0 %, Band:10.0 %, Lymph:0.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL,
   LDH:216 IU/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   A/P: 82 M w/ recent admission for painless jaundice s/p ERCP with
   sphincterotomy and biliary stent c/b hypoxia requiring intubation,
   admitted with septic shock
   Septic Shock: Febrile, WBC > 30 with bandemia, tachycardic, increased
   RR.  Unclear source, but differential includes pulmonary or GI source
   given recent diarrhea.  Patient without abdominal pain or jaundice to
   suggest acute cholangitis.
   Sputum, Blood, Urine Cx, Cdiff x 3
   1.        Will treat broadly with Vanc/Zosyn/Flagyl
   2.        Titrate CVP to [**8-12**], bolus as needed
   3.        Switched to phenylephrine to avoid beta adrtenergic effect of
   levophed
   4.        Transfuse as needed for Hct>30 if MvO2 is < 70%
   5.        Basal cortisol level
   6.        Re-site line given malpsitioning of line
   Hypoxia: Patient comfortable on 6L.  He is willing to be intubated.
   Hypoxia likely a result of pleural effusions.
   1.        ABG
   2.        Continue nasal cannula at this point
   3.        Daily CXR
   4.        Add nebulizer prn
   Pleural effusions: may be malignant pleural effusions vs. chf vs. pna
   1.        Consider thoracentesis, diagnostic and therapetic
   2.        ECHO, cycle enzymes, daily EKG
   3.        Empirically treat for HAP with Vanc/Zosyn
   Biliary stricture: Patient with recent admission for painless jaudince
   requiring biliary stent and sphincterotomy.  Patient due to stent
   change in [**2155-6-1**].  Patient does not appear to have clinical signs of
   cholangitis at this point.
   1.        NPO for now
   2.        Trend LFTs
   3.        empirically treat with Zosyn/Flagyl for biliary bugs
   CAD: MI in [**2106**]'s.  Give high dose ASA.  Cycle enzymes.
   PUMP: Hold antihypertensives, pressors as needed.  Will repeat ECHO.
   Patient grossly volume overloaded, and may require aggressive diuresis
   once he's off pressors.
   RHYTHM: known afib on coumadin.  Hold coumadin. Rate much improved
   after switch to neosynephrine
   ARF: Cr up to 1.9 from basline.
   1.        urine lytes show FENA 0.2%, pre-renal vs ATN in setting
   hypotension
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-5-9**] 06:25 PM, will need line re-sited today
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2155-05-10 08:01:00 Physician Attending Progress Note
Chief Complaint: shock, respiratory distress
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   82 yo M w/afib on coumadin, hypothyroidism, and CAD s/p MI s/p recent
   ERCP w/sphincterotomy and biliary stent for high grade stricture of CBD
   c/b shock, req pressors and intubation x48hrs peri-procedure (brushings
   were "atypical" and CA [**65**]-9 very elevated, suspcious for pancreatic
   ca), now transferred from OSH w/shock, hypoxemia, and leukocytosis (WBC
   30K w/40% bands).  Likely septic shock, though may be cardiogenic
   component w/BNP 10K.
   24 Hour Events:
 EKG - At [**2155-5-9**] 05:58 PM
 MULTI LUMEN - START [**2155-5-9**] 06:25 PM
   right subclavian line inserted [**5-9**]
 BLOOD CULTURED - At [**2155-5-9**] 07:24 PM
 URINE CULTURE - At [**2155-5-9**] 07:24 PM
 RECTAL SWAB - At [**2155-5-9**] 07:24 PM
 BLOOD CULTURED - At [**2155-5-9**] 07:41 PM
   Tachycardic on levophed so changed to neo w/improvement in HR and BP.
   A-line attempted x3 w/o success.
   CvO2 75
   OSH blood cxs-
 bottles w/GPC, spec pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-5-9**] 09:40 PM
   Metronidazole - [**2155-5-10**] 04:00 AM
   Piperacillin - [**2155-5-10**] 05:00 AM
   Infusions:
   Phenylephrine - 3.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Asa 325
   Atrovent q6hrs
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-10**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 111 (101 - 134) bpm
   BP: 93/67(74) {78/26(40) - 119/72(78)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 15 (7 - 20)mmHg
   Total In:
                                                                  1,653 mL
                                                                  1,676 mL
   PO:
   TF:
   IVF:
                                                                  1,653 mL
                                                                  1,676 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                    350 mL
   Urine:
                                                                    280 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,373 mL
                                                                  1,326 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: 7.36/46/91.[**Numeric Identifier 96**]/26/0
   PaO2 / FiO2: 184
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Absent), pulses w/doppler
   Respiratory / Chest: clear anteriorly b/l, diminsed laterally b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing,
   weeping skin
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice, sacral decub, decubs
   on heels b/l
   Neurologic: Attentive, Follows simple commands, answering questions
   appropriately
   Labs / Radiology
   12.6 g/dL
   286 K/uL
   119 mg/dL
   1.7 mg/dL
   26 mEq/L
   5.1 mEq/L
   49 mg/dL
   103 mEq/L
   137 mEq/L
   39.3 %
   34.8 K/uL
        [image002.jpg]
                             [**2155-5-9**]  06:37 PM
                             [**2155-5-9**]  09:47 PM
                             [**2155-5-10**]  12:25 AM
                             [**2155-5-10**]  04:00 AM
                             [**2155-5-10**]  04:59 AM
   WBC
   34.8
   Hct
   40.9
   39.3
   Plt
   295
   286
   Cr
   1.7
   1.7
   TCO2
   26
   27
   27
   Glucose
   83
   119
   Other labs: PT / PTT / INR:26.5/33.8/2.6, ALT / AST:36/61, Alk Phos / T
   Bili:313/1.7, Differential-Neuts:86.0 %, Band:10.0 %, Lymph:0.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL,
   LDH:216 IU/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Random cortisol 35
   Portable CXR
 b/l effusions (R>>L), R subclavian CVL deep
   Assessment and Plan
   82 yr old man with recent shock from biliary sepsis, heart failure,
   been at nursing home with significant diarrhea, new cough, SOB, and
   worsening lower ext edema now transferred with shock
   82 yo M w/afib on coumadin, hypothyroidism, and CAD s/p MI s/p recent
   ERCP w/sphincterotomy and biliary stent for high grade stricture of CBD
   c/b shock, req pressors and intubation x48hrs peri-procedure (brushings
   were "atypical" and CA [**65**]-9 very elevated, suspcious for pancreatic ca)
   transferred from OSH w/shock, leukocytosis (WBC 30K w/40% bands), and
   BNP 10K.  Likely septic shock, though may be cardiogenic component
   w/BNP 10K- checking CvO2.  Potential souces of infection= c diff given
   sig diarrhea and recent abx (most likely) vs. pna vs. biliary source
   (but LFTs better and no RUQ TTP); pan cx'd.  Bolus for CVP goal ~10,
   MAP >65 w/levophed.  On 6L suppl O2- hypoxemia likely [**2-1**] pleural
   effusions + mild pulm edema; monitor O2 sats closely w/IVF
   resuscitation.  Afib currently not rate controlled- but in shock and on
   levophed, rx'ing underlyzing causes.  ARF- pre-renal +/- ATN, following
   uop.
   1.  Shock: septic picture.  Infectious sources- positive blood cxs from
   OSH, also concerned for c diff given sig diarrhea and recent abx.
   Other possibilities incl pna and billiary source (though LFTs improved
   c/w prior).
   CVP goal 10, neo for MAP at least 65.  Broad spectum abx (change IV
   flagyl to po vanco for c diff given high risk).  f/u cxs, c diff.
                ++ Diarhhea and was on broad spectrum ABX recently- check
   C diff. very reassuring ABd exam,
                ++ Cough, Pleural effussions: possible PNA, check sputum
   cx, doubt
                ++ recent biliary sepsis but lfts much improved and no
   right upper
                 Also concern for a cardiogenic component  - high BNP
   check CvO2
   2. Hypoxemia: likely [**2-1**] vol overload/effusions.  ?underlying pna.
   3. Afib: rate better controlled on neo. Rx underlying issues and will
   try to add on bblocker when stable.  Restart heparin when no immenent
   procedures.
   4. ARF: pre renal and may be an ATN component, assess with volume
   resuscitation, trend Cr, UOP.  Renally dose all meds.  FENa 0.2, c/w
   pre-renal.  Check urine sediment.
   5.  Sacral decub: wound care consult
   6.  CAD: cont asa, EKG unchanged.  Cardiac enzymes negative.  Holding
   BB, ACEI while req pressors.
   7.  FEN: npo for now given hypoxemia abd need for sig suppl O2
   8.  Access: resite CVL, re-attempt a-line
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-5-9**] 06:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin once INR drifts below 2
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2155-05-11 07:26:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 URINE CULTURE - At [**2155-5-10**] 10:11 AM
 MULTI LUMEN - START [**2155-5-10**] 04:00 PM
 MULTI LUMEN - STOP [**2155-5-10**] 04:10 PM
   right subclavian line inserted [**5-9**]
 ARTERIAL LINE - START [**2155-5-10**] 08:29 PM
   - Placed Central line, bolused with IVF's with goal CVP of 10mmHg (last
   [**12-15**])
   - Placed A-Line - pressures stable, but increased pressors overnight.
   - Cultures growing GPC in blood
   - OSH cultures: GPC in blood (4/4 bottles), Urine +GPC/GNR, MRSA+
   - TTE not done
   - Agitated overnight, confused, pulling off oxygen at times.
   - Started vasopressin this AM for low UOP, rising lactate and rising
   Cr.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2155-5-10**] 04:00 AM
   Piperacillin - [**2155-5-11**] 12:28 AM
   Vancomycin - [**2155-5-11**] 12:28 AM
   Infusions:
   Phenylephrine - 4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-11**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (96.9
   HR: 110 (100 - 121) bpm
   BP: 93/62(75) {72/50(59) - 120/81(96)} mmHg
   RR: 24 (11 - 30) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92.5 kg (admission): 91.5 kg
    CVP: 1 (1 - 17)mmHg
   Total In:
                                                                  4,185 mL
                                                                    255 mL
   PO:
   TF:
   IVF:
                                                                  4,185 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    103 mL
   Urine:
                                                                    825 mL
                                                                    103 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,360 mL
                                                                    152 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 91%
   ABG: 7.35/45/132/22/0
   PaO2 / FiO2: 264
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, Diminished: at R-base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, +[**Last Name (un) 2638**] lesions on fingers
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): to hospital/[**Hospital3 **], Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   276 K/uL
   12.9 g/dL
   111 mg/dL
   1.9 mg/dL
   22 mEq/L
   5.0 mEq/L
   51 mg/dL
   104 mEq/L
   136 mEq/L
   41.0 %
   26.1 K/uL
        [image002.jpg]
                             [**2155-5-9**]  06:37 PM
                             [**2155-5-9**]  09:47 PM
                             [**2155-5-10**]  12:25 AM
                             [**2155-5-10**]  04:00 AM
                             [**2155-5-10**]  04:59 AM
                             [**2155-5-11**]  04:25 AM
                             [**2155-5-11**]  04:42 AM
   WBC
   34.8
   30.6
   26.1
   Hct
   40.9
   39.3
   41.0
   Plt
   295
   286
   276
   Cr
   1.7
   1.7
   1.9
   TropT
   0.01
   TCO2
   26
   27
   27
   26
   Glucose
   83
   119
   111
   Other labs: PT / PTT / INR:28.1/36.0/2.8, CK / CKMB /
   Troponin-T:35/3/0.01, ALT / AST:36/58, Alk Phos / T Bili:295/1.6,
   Differential-Neuts:93.7 %, Band:0.0 %, Lymph:3.9 %, Mono:2.1 %, Eos:0.2
   %, Lactic Acid:2.7 mmol/L, Albumin:1.9 g/dL, LDH:219 IU/L, Ca++:7.0
   mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR:
   Tip of the new right IJ line ends in the lower SVC, right subclavian
   line tip
   projects over the superior cavoatrial junction as before, large right
   pleural
   effusion is stable, and small left pleural effusion unchanged. Heart
   size top
   normal, partially obscured by large right pleural effusion. Mediastinal
   vascular engorgement improved slightly. No pneumothorax. Gaseous
   distention of the stomach has improved.
   Microbiology: Blood Cultures: GPC in [**2-1**] cultures.
   Assessment and Plan
   A/P: 82 M w/ recent admission for painless jaundice s/p ERCP with
   sphincterotomy and biliary stent c/b hypoxia requiring intubation,
   admitted with septic shock
   .
   Septic Shock: On admission was febrile, WBC > 30 with bandemia,
   tachycardic, increased RR.  Now with GPC in blood.  Unclear source, but
   must consider endocarditis, pulmonary, decubiti or GI source given
   recent diarrhea.  Patient without abdominal pain or jaundice to suggest
   acute cholangitis.
   f/u Sputum, Blood, Urine Cx, Cdiff x 3
   1.        Will treat broadly with Vanc/Zosyn/PO Vanco for C. Diff
   2.        Titrate CVP to 10, bolus as needed
   3.        Switched to phenylephrine to avoid beta adrtenergic effect of
   levophed and resulting tachycardia.  Added vasopressin this AM.  Check
   Mixed Venous O2 sat.  Adjust PRN.  Might need dobutamine for inotrpoic
   support.
   4.        Transfuse as needed for Hct>30 if MvO2 is < 70%
   5.        Basal cortisol level wnl, no [**Last Name (un) 45**] stim
   6.        Line re-positioned, f/u culture of tip although unlikely
   source as placed less than 36 hours ago at OSH.
   7.        TTE for endocarditis.  If negative would get CT Scan
   chest/abdomen looking for abdomen.  ?osteo underlying wounds.
   8.        Wound care consult.
   9.        CT Chest today for ? effusion/pneumonia.
   .
   Hypoxia: Patient comfortable on 6L.  He is willing to be intubated.
   Hypoxia likely a result of pleural effusions, sepsis, volume
   recuscitation.
   1.        ABG this AM 7.35/45/132
   2.        Continue nasal cannula at this point.
   3.        Daily CXR
   4.        Add nebulizer prn
   .
   Pleural effusions: may be malignant pleural effusions vs. chf vs. pna
   1.        ECHO, cycle enzymes, daily EKG
   2.        Empirically treat for HAP with Vanc/Zosyn
   .
   Acute Renal Failure: likely pre-renal from sepsis/hypotension.  UOP has
   dropped off this morning, and now with rising Cr/lactate.  Added
   vasopressin for second pressor and goal of improved renal perfusion.
   Goal MAP of 70 for today.
   1.        Follow Cr.
   .
   Biliary stricture: Patient with recent admission for painless jaudince
   requiring biliary stent and sphincterotomy.  Patient due to stent
   change in [**2155-6-1**].  Patient does not appear to have clinical signs of
   cholangitis at this point.
   1.        NPO for now
   2.        Trend LFTs
   3.        empirically treat with Zosyn for biliary organisms
   .
   CAD: MI in [**2106**]'s.  Give high dose ASA.  Enzymes negative x1 - and with
   negative set at OSH more than 12 hours apart.  No need to cycle
   further.
   .
   PUMP: Hold antihypertensives, pressors as needed.  Will repeat ECHO.
   Patient grossly volume overloaded, and may require aggressive diuresis
   once he's off pressors.
   .
   RHYTHM: known afib on coumadin.  Hold coumadin. Rate much improved
   after switch to neosynephrine.
   .
   ARF: Cr up to 1.9 from basline.
   1.        urine lytes show FENA 0.2%, pre-renal vs ATN in setting
   hypotension
   .
   Nutrition: Consult this AM for low albumin.
   1.        Would restart regular diet if possible although with
   respiratory status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-5-10**] 04:00 PM
   Arterial Line - [**2155-5-10**] 08:29 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-05-11 07:53:00 Physician Attending Progress Note
Chief Complaint: septic shock, respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   [** 2643**] placed w/initial CVP 7-8.  A line placed.
   OSH micro: GPC in blood GPC/GNR in urine
   This AM bld cxs here with MRSA
   This am, decreased uop, rising Cr, rising lactate, SBP 70s w/neo maxed.
   Vasopressin added w/sig improvement in BP and able to decrease neo.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2155-5-10**] 04:00 AM - stopped
   Piperacillin - [**2155-5-11**] 12:28 AM
   Vancomycin IV - [**2155-5-11**] 12:28 AM
   Po vanco
   Infusions:
   Phenylephrine - 4 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   ASA 325
   Atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-11**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (96.9
   HR: 113 (100 - 129) bpm
   BP: 118/76(94) {72/50(59) - 120/81(96)} mmHg
   RR: 21 (11 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92.5 kg (admission): 91.5 kg
   CVP: 8 (1 - 17)mmHg
   Total In:
                                                                  4,185 mL
                                                                    284 mL
   PO:
   TF:
   IVF:
                                                                  4,185 mL
                                                                    284 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    133 mL
   Urine:
                                                                    825 mL
                                                                    133 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,360 mL
                                                                    151 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.35/45/132/22/0
   PaO2 / FiO2: 264
   Physical Examination
   Awake, aaox3, NAD
   BS diminished on R, otherwise clear
   Irregularly irregular
   Abd obese, soft, NT, +BS
   2+ [**Location (un) **], ulcers wrapped
   Labs / Radiology
   12.9 g/dL
   276 K/uL
   111 mg/dL
   1.9 mg/dL
   22 mEq/L
   5.0 mEq/L
   51 mg/dL
   104 mEq/L
   136 mEq/L
   41.0 %
   26.1 K/uL
        [image002.jpg]
                             [**2155-5-9**]  06:37 PM
                             [**2155-5-9**]  09:47 PM
                             [**2155-5-10**]  12:25 AM
                             [**2155-5-10**]  04:00 AM
                             [**2155-5-10**]  04:59 AM
                             [**2155-5-11**]  04:25 AM
                             [**2155-5-11**]  04:42 AM
   WBC
   34.8
   30.6
   26.1
   Hct
   40.9
   39.3
   41.0
   Plt
   295
   286
   276
   Cr
   1.7
   1.7
   1.9
   TropT
   0.01
   TCO2
   26
   27
   27
   26
   Glucose
   83
   119
   111
   Other labs: PT / PTT / INR:28.1/36.0/2.8, CK / CKMB /
   Troponin-T:35/3/0.01, ALT / AST:36/58, Alk Phos / T Bili:295/1.6,
   Differential-Neuts:93.7 %, Band:0.0 %, Lymph:3.9 %, Mono:2.1 %, Eos:0.2
   %, Lactic Acid:2.7 mmol/L, Albumin:1.9 g/dL, LDH:219 IU/L, Ca++:7.0
   mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Micro: as above, additionally c diff negative
   AP CXR: worsening R sided effusion
   Assessment and Plan
   82 yo M w/afib on coumadin, CAD s/p MI, s/p recent ERCP
   w/sphincterotomy and biliary stent for high grade stricture of CBD c/b
   shock, req pressors and intubation x48hrs peri-procedure (brushings
   were "atypical" and CA [**65**]-9 very elevated, suspcious for pancreatic ca)
   transferred from OSH w/shock, leukocytosis (WBC 30K w/40% bands), and
   hypoxemia.
   1.  Shock: Presumed sepsis w/leukocytosis/bandemia and initial CvO2
   75.  GP bacteremia- possible sources = bowel, skin (decubs).  Also
   concerned for c diff given sig diarrhea and recent abx (though 1^st
   cdiff neg) and ?pna.
   Bolus for CVP goal at least 10
   Neo and vaso for MAP at least 65
   Recheck CvO2
   Cont broad spectum abx
 zosyn/IV vanco/po vanco.
   Chest CT
 if large effussions consider diagnistic [**Female First Name (un) **] but will need
   to be reversed from inr
   f/u cxs (incl from OSH), c diff.
   Checking TTE. Doubt tamponade given low CVP but need to consider in
   differential given effusion, malignancy, etc.
   2. Hypoxemia: likely [**2-1**] pleural effusions + pulm edema.  BNP 10K at
   OSH, though some of this may be related to pt
s afib and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2624**].
   Not diuresing while requiring pressors. ?underlying pna; abx as above.
   Cont BDs.
   3. Afib: rate better controlled on neo. Rx underlying issues and will
   try to add on bblocker when stable.  Was on coumadin, holding given
   supratherapeutic INR.
   4. Oliguric ARF: Suspect now developing ATN.  Recheck urine lytes and
   also check urine sediment.  Trend Cr and uop.  Renally dose meds.
   5. Sacral and b/l heel decubs: wound care consult
   6. CAD: cont asa.  EKG unchanged c/w b/l and cardiac enzymes negative.
   Holding BB, ACEI while req pressors.
   7. FEN: npo for now given hypoxemia req sig suppl O2
   8. Access: [**Last Name (LF) 2643**], [**First Name3 (LF) **]
   ICU Care
   Nutrition: none yet, consider NGT
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2155-5-10**] 04:00 PM
   Arterial Line - [**2155-5-10**] 08:29 PM
   Prophylaxis:
   DVT: INR supratherapeutic
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  we have called family and asked them to come in to
   discuss his shock and multiorgan failure and clarify goals of care-in
   light if recent ICU stay, elevate Ca [**65**]-9
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2155-05-12 07:01:00 Physician Resident Progress Note
Chief Complaint: MRSA Bacteremia
   24 Hour Events:
 CHEST PAIN - At [**2155-5-11**] 09:45 AM
 BLOOD CULTURED - At [**2155-5-11**] 10:16 AM
 EKG - At [**2155-5-11**] 10:16 AM
   -Family  meeting held with daughters where the decision was made to
   make him DNR/DNI, with NO escalation of care (ie, no new invasive
   procedures/ or work-ups).  Basically he was given a very poor prognosis
   with months to live from his gastroenterologist as he has pancreatic
   cancer.  He does not know this diagnosis yet, only his daughters do, so
   they were very reasonable about goals of care.  They will get back to
   us on possibly making him CMO, and would like input from his GI doctor
   Dr. [**Last Name (STitle) 2655**], whom I emailed
   -Blood cultures came back 4/4 bottles with MRSA
   -We were unable to wean pressors due to low MAPs
   -We got a CT to better characterize his pleural effusion on CXR, and it
   showed a white out of the right lung with effusion, and a complete lung
   collapse with mucous plugging.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2155-5-10**] 04:00 AM
   Piperacillin - [**2155-5-11**] 12:28 AM
   Piperacillin/Tazobactam (Zosyn) - [**2155-5-12**] 05:54 AM
   Vancomycin - [**2155-5-12**] 06:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-12**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 114 (107 - 135) bpm
   BP: 93/66(77) {77/53(64) - 182/122(148)} mmHg
   RR: 16 (12 - 39) insp/min
   SpO2: 77%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92.5 kg (admission): 91.5 kg
    CVP: 7 (-3 - 17)mmHg
   Total In:
                                                                  2,872 mL
                                                                    895 mL
   PO:
   TF:
   IVF:
                                                                  2,872 mL
                                                                    895 mL
   Blood products:
   Total out:
                                                                    353 mL
                                                                     28 mL
   Urine:
                                                                    353 mL
                                                                     28 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,519 mL
                                                                    867 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 77%
   ABG: 7.28/34/86/14/-9
   PaO2 / FiO2: 86
   Physical Examination
   General Appearance: Well nourished, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: right, and left base)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender:
   Extremities: Right: 2+, Left: 2+, 2+ pre-sacral edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   309 K/uL
   12.9 g/dL
   167 mg/dL
   2.4 mg/dL
   14 mEq/L
   5.7 mEq/L
   62 mg/dL
   104 mEq/L
   134 mEq/L
   41.1 %
   23.1 K/uL
        [image002.jpg]
                             [**2155-5-11**]  04:42 AM
                             [**2155-5-11**]  10:04 AM
                             [**2155-5-11**]  10:14 AM
                             [**2155-5-11**]  12:12 PM
                             [**2155-5-11**]  03:25 PM
                             [**2155-5-11**]  03:30 PM
                             [**2155-5-11**]  04:28 PM
                             [**2155-5-11**]  09:16 PM
                             [**2155-5-12**]  03:15 AM
                             [**2155-5-12**]  04:36 AM
   WBC
   23.1
   Hct
   41.1
   Plt
   309
   Cr
   2.0
   2.4
   TropT
   0.01
   TCO2
   26
   24
   23
   22
   23
   18
   17
   Glucose
   167
   Other labs: PT / PTT / INR:32.6/38.0/3.4, CK / CKMB /
   Troponin-T:35/3/0.01, ALT / AST:63/168, Alk Phos / T Bili:342/2.1,
   Differential-Neuts:93.7 %, Band:0.0 %, Lymph:3.9 %, Mono:2.1 %, Eos:0.2
   %, Lactic Acid:3.3 mmol/L, Albumin:2.1 g/dL, LDH:406 IU/L, Ca++:7.9
   mg/dL, Mg++:2.2 mg/dL, PO4:7.2 mg/dL
   Imaging: CT Chest
   IMPRESSION:
   1. No evidence of pneumonia. Large right pleural effusion causing
   complete
   collapse of the right lung, which was previously partially aerated.
   Component
   of mucus plugging may be superimposed and continued radiographic
   follow-up
   needed. Moderate left pleural effusion causing complete atelectasis of
   the
   basilar left lower lobe segments. Right chest wall edema.
   2. Atherosclerotic calcifications within the aorta and coronary
   circulation.
   3. Interval increase in intra-abdominal ascites, with resolution of
   previously identified intrahepatic biliary dilatation and stable
   appearance to
   simple and hyperdense renal lesions better described on previously
   performed
   dedicated CT abdomen. Pancreatic ductal dilatation persists.
   Microbiology: VRE Swab: Positive
   Blood: MRSA [**4-4**] from [**2155-5-9**]
   Assessment and Plan
   A/P: 82 M w/ recent admission for painless jaundice s/p ERCP with
   sphincterotomy and biliary stent c/b hypoxia requiring intubation,
   admitted with septic shock
   .
   Septic Shock: On admission was febrile, WBC > 30 with bandemia,
   tachycardic, increased RR.  Now with GPC in blood.  Unclear source, but
   must consider endocarditis, pulmonary, decubiti or GI source given
   recent instrumentation.  Patient without abdominal pain or jaundice to
   suggest acute cholangitis.
   .
   Goals of Care: Will need to meet with family today to discuss goals of
   care
 currently no escalation of care.
   .
   f/u Sputum, Blood, Urine Cx, Cdiff x 3 - MRSA+ Bacteremia - unclear
   source, ? parapneumonic effusion, endocarditis, complication of biliary
   stent placement.
   1.        Will treat broadly with Vanc/Zosyn/PO Vanco for C. Diff -
   consider d/c zosyn today.
   2.        Titrate CVP to 10, bolus as needed
   3.        Switched to phenylephrine to avoid beta adrtenergic effect of
   levophed and resulting tachycardia.  Added vasopressin this AM.  Check
   Mixed Venous O2 sat.  Adjust PRN.  Might need dobutamine for inotrpoic
   support but would defer at this time.
   4.        Transfuse as needed for Hct>30 if MvO2 is < 70%.
   5.        Basal cortisol level wnl, no [**Last Name (un) 45**] stim
   6.        Line re-positioned, f/u culture of tip.
   7.        TTE for endocarditis.  If negative would get CT Scan
   chest/abdomen looking for abdomen.  ?osteo underlying wounds.
   8.        Wound care consult.
   9.        Consider thoracentesis of effusion
   .
   Hypoxia: Patient comfortable on 6L.  He is willing to be intubated.
   Hypoxia likely a result of pleural effusions, sepsis, volume
   recuscitation.
   1.        ABG this AM 7.35/45/132
   2.        Continue nasal cannula at this point.
   3.        Daily CXR
   4.        Add nebulizer prn
   .
   Pleural effusions: may be malignant pleural effusions vs. chf vs. pna
   1.        ECHO, cycle enzymes, daily EKG
   2.        Empirically treat for HAP with Vanc/Zosyn
 d/c zosyn once
   more stable.
   .
   Acute Renal Failure: likely pre-renal from sepsis/hypotension.  UOP has
   dropped off this morning, and now with rising Cr/lactate.  Added
   vasopressin for second pressor and goal of improved renal perfusion.
   Goal MAP of 70 for today.
   1.        Follow Cr.
   .
   Biliary stricture: Patient with recent admission for painless jaudince
   requiring biliary stent and sphincterotomy.  Patient due to stent
   change in [**2155-6-1**].  Patient does not appear to have clinical signs of
   cholangitis at this point.
   1.        NPO for now
   2.        Trend LFTs
   3.        empirically treat with Zosyn for biliary organisms
   .
   CAD: MI in [**2106**]'s.  Give high dose ASA.  Enzymes negative x1 - and with
   negative set at OSH more than 12 hours apart.  No need to cycle
   further.
   .
   PUMP: Hold antihypertensives, pressors as needed.  Will repeat ECHO.
   Patient grossly volume overloaded, and may require aggressive diuresis
   once he's off pressors.
   .
   RHYTHM: known afib on coumadin.  Hold coumadin. Rate much improved
   after switch to neosynephrine.
   .
   ARF: Cr up to 1.9 from basline.
   1.        urine lytes show FENA 0.2%, pre-renal vs ATN in setting
   hypotension
   .
   Nutrition: Consult for low albumin.
   1.             Would restart regular diet if possible although with
   respiratory status.  Discuss goals of care with family.
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-5-10**] 04:00 PM
   Arterial Line - [**2155-5-10**] 08:29 PM
   Prophylaxis:
   DVT: INR Elevated
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-05-12 11:45:00 Physician Attending Progress Note
Chief Complaint: septic shock, MRSA bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo M w/afib on coumadin, CAD s/p MI, s/p recent  ERCP
   w/sphincterotomy and biliary stent for high grade CBD stricture c/b
   shock and intubation x 48hrs peri-procedure (brushings were "atypical"
   and CA [**65**]-9 very elevated, suspcious for pancreatic ca) transferred
   from OSH w/shock, leukocytosis (WBC 30K w/40% bands), and hypoxemia.
   24 Hour Events:
 CHEST PAIN - At [**2155-5-11**] 09:45 AM
 BLOOD CULTURED - At [**2155-5-11**] 10:16 AM
 EKG - At [**2155-5-11**] 10:16 AM
   blood cx'd returned + MRSA
   escalating pressors requirements, now on neo drip and vasopressin
   SVO2 62%--improved to 77% after IVF
   Chest  CT
large R effusion with R collapse, partial L collapse with
   effusion
   Family mtg yesterday to discuss goals of care, DNR/DNI without
   escalation of
        aggression interventions
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2155-5-10**] 04:00 AM
   Piperacillin - [**2155-5-11**] 12:28 AM
   Piperacillin/Tazobactam (Zosyn) - [**2155-5-12**] 05:54 AM
   Vancomycin - [**2155-5-12**] 06:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2155-5-12**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36
C (96.8
   HR: 113 (107 - 123) bpm
   BP: 102/75(87) {77/53(64) - 110/75(88)} mmHg
   RR: 15 (13 - 39) insp/min
   SpO2: 77%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 92.5 kg (admission): 91.5 kg
   Height: 67 Inch
   CVP: 14 (5 - 16)mmHg
   Total In:
                                                                  2,872 mL
                                                                  1,013 mL
   PO:
   TF:
   IVF:
                                                                  2,872 mL
                                                                  1,013 mL
   Blood products:
   Total out:
                                                                    353 mL
                                                                     73 mL
   Urine:
                                                                    353 mL
                                                                     73 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,519 mL
                                                                    940 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 77% 6L NC and 100% FIO2 through shovel mask
   ABG: 7.28/34/86/14/-9
   PaO2 / FiO2: 86
   Physical Examination
   General Appearance: uncomfortable, lethargic, awake
   Eyes / Conjunctiva: PERRL, MMD
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: throughout)
   transmitted BS  at L apex, minimal air movement R upper zone
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  cool LE
   Neurologic: Attentive, Follows simple commands, Responds to: verbal
   stimuli, Oriented (to): X 2, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   309 K/uL
   167 mg/dL
   2.4 mg/dL (1.9<--1.7)
   14 mEq/L
   5.7 mEq/L (hemolyzed)
   62 mg/dL
   104 mEq/L
   134 mEq/L
   41.1 %
   23.1 K/uL
        [image002.jpg]
                             [**2155-5-11**]  04:42 AM
                             [**2155-5-11**]  10:04 AM
                             [**2155-5-11**]  10:14 AM
                             [**2155-5-11**]  12:12 PM
                             [**2155-5-11**]  03:25 PM
                             [**2155-5-11**]  03:30 PM
                             [**2155-5-11**]  04:28 PM
                             [**2155-5-11**]  09:16 PM
                             [**2155-5-12**]  03:15 AM
                             [**2155-5-12**]  04:36 AM
   WBC
   23.1 (26)
   Hct
   41.1
   Plt
   309
   Cr
   2.0
   2.4
   TropT
   0.01
   TCO2
   26
   24
   23
   22
   23
   18
   17
   Glucose
   167
   Other labs: PT / PTT / INR:32.6/38.0/3.4, CK / CKMB /
   Troponin-T:35/3/0.01, ALT / AST:63/168 increasing , Alk Phos / T
   Bili:342/2.1, Differential-Neuts:93.7 %, Band:0.0 %, Lymph:3.9 %,
   Mono:2.1 %, Eos:0.2 %, Lactic Acid:3.3 mmol/L , Albumin:2.1 g/dL,
   LDH:406 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:7.2 mg/dL
   Imaging: [**5-11**] CT chest :
   1. No evidence of pneumonia. Large right pleural effusion causing
   complete
   collapse of the right lung, which was previously partially aerated.
   Component
   of mucus plugging may be superimposed and continued radiographic
   follow-up
   needed. Moderate left pleural effusion causing complete atelectasis of
   the
   basilar left lower lobe segments. Right chest wall edema.
   2. Atherosclerotic calcifications within the aorta and coronary
   circulation.
   3. Interval increase in intra-abdominal ascites, with resolution of
   previously identified intrahepatic biliary dilatation and stable
   appearance to
   simple and hyperdense renal lesions better described on previously
   performed
   dedicated CT abdomen. Pancreatic ductal dilatation persists.
   no new cxr from this am
   Microbiology: bl MRSA
   stool neg c diff X 2
   urine lg neg
   OSH urine cx--GNR and GP cocci
   Assessment and Plan
   82 yo M w/afib on coumadin, CAD s/p MI, s/p recent admit with  ERCP
   w/sphincterotomy and biliary stent for high grade CBD stricture c/b
   shock, requiring pressors and intubation x 48hrs peri-procedure
   (brushings were "atypical" and CA [**65**]-9 very elevated, suspcious for
   pancreatic ca) transferred from OSH w/ shock, leukocytosis and
   hypoxemia.
   Main issues remain:
   # Shock
     Presumed sepsis w/ leukocytosis/bandemia and initial CvO2 75.
     Blood cx now + for MRSA
        possible sources -> lungs/pna effusions, bowel, skin (decubs).
     With leukocytosis, diarrhea, and recent antibx also concerned for c
   diff
   -Continue pressores--Neo and vaso
   -Bolus IVF for CVP goal at least 10
   -Broad spectum abx
 zosyn/IV vanco/po vanco.
   -F/u cxs (incl from OSH), c diff.
   -TTE to assess cards fx, Low suspic of  tamponade given low CVP but in
   ddx given effusion, malignancy, etc.
   # Hypoxemia/respiratory distress
        [**2-1**] pleural effusions + pulm edema (BNP 10K at OSH) + probable
   pna,
   Not diuresing as requiring pressors.
   Abx as above
   Cont BDs
   Tenous and sats very positional, would have difficutly tolerating
   thoracentesis (would also need to reverse anticoag) or bronch
        at this time,
   Extensive discussions with family who understand poor prognoisis and
   risks associated with potentially therapeutic interventions
      such as [**Female First Name (un) **]/bronch given tenuous status
   Pt is DNR/DNI without excalation of care,
   # Metabolic acidosis
   Likely from sepsis,progressive renal failure, lactate acidosis
   Trend lactate, support BP, IVF as above
   #  ARF
   likely ATN /intravascualr depletion from sepsis. Urine lytes appear
   pre-renal
   Renally dose meds.
   Trend u/o, cr
   # Leukocytosis
   trending down, continue broad coverage including empiric for  c diff
   #  Afib: tolerating neo in terms of rates. Holding BB given pressor
   requiremetns
    Holding coumadin given supratherapeutic INR.
   # Sacral and b/l heel decubs: wound care
   # CAD
   EKG unchanged b/l and cardiac enzymes negative.
   Holding BB, ACEI while req pressors
   cont asa.
   # FEN: npo given hypoxemia and tenous resp status
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-5-10**] 04:00 PM
   Arterial Line - [**2155-5-10**] 08:29 PM
   Prophylaxis:
   DVT:  supratherapeutic INR
   Stress ulcer: H2B
   VAP: not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : 45 criticaly ill
   Total time spent:  remains in ICU, continue family updates to clarify
   goals of care

2155-05-13 06:52:00 Physician Resident Progress Note
Chief Complaint: MRSA Bacteremia
   24 Hour Events:
   - Stably sick, likely CMO in AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2155-5-11**] 12:28 AM
   Vancomycin - [**2155-5-12**] 06:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2155-5-13**] 05:49 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 1.4 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2155-5-12**] 05:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-13**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 107 (104 - 123) bpm
   BP: 93/69(80) {87/65(75) - 124/87(284)} mmHg
   RR: 11 (11 - 25) insp/min
   SpO2: 75%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 92.5 kg (admission): 91.5 kg
   Height: 67 Inch
    CVP: 19 (8 - 20)mmHg
   Total In:
                                                                  1,661 mL
                                                                    193 mL
   PO:
   TF:
   IVF:
                                                                  1,661 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                    208 mL
                                                                     90 mL
   Urine:
                                                                    208 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,453 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 75%
   ABG: 7.32/36/99.[**Numeric Identifier 128**]/22/-6
   PaO2 / FiO2: 99
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   Left lung field)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: 2+, Left: 2+, +pre-sacral edema
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Movement: Not assessed, Tone: Not assessed,
   arousable easily with sternal rub, but fades off to sleep quite quickly
   Labs / Radiology
   240 K/uL
   12.0 g/dL
   160 mg/dL
   2.8 mg/dL
   22 mEq/L
   5.3 mEq/L
   72 mg/dL
   105 mEq/L
   135 mEq/L
   38.2 %
   20.4 K/uL
        [image002.jpg]
                             [**2155-5-11**]  03:25 PM
                             [**2155-5-11**]  03:30 PM
                             [**2155-5-11**]  04:28 PM
                             [**2155-5-11**]  09:16 PM
                             [**2155-5-12**]  03:15 AM
                             [**2155-5-12**]  04:36 AM
                             [**2155-5-12**]  01:04 PM
                             [**2155-5-12**]  02:56 PM
                             [**2155-5-13**]  04:11 AM
                             [**2155-5-13**]  05:19 AM
   WBC
   23.1
   20.4
   Hct
   41.1
   38.2
   Plt
   309
   240
   Cr
   2.0
   2.4
   2.6
   2.8
   TCO2
   22
   23
   18
   17
   19
   19
   Glucose
   167
   168
   160
   Other labs: PT / PTT / INR:32.6/38.0/3.4, CK / CKMB /
   Troponin-T:35/3/0.01, ALT / AST:81/141, Alk Phos / T Bili:323/2.0,
   Differential-Neuts:93.7 %, Band:0.0 %, Lymph:3.9 %, Mono:2.1 %, Eos:0.2
   %, Lactic Acid:2.1 mmol/L, Albumin:1.9 g/dL, LDH:221 IU/L, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:5.9 mg/dL
   Imaging: TTE: Suboptimal image quality. The left atrium is mildly
   dilated. The estimated right atrial pressure is 0-10mmHg. LV systolic
   function appears depressed. There is no aortic valve stenosis. There is
   a trivial/physiologic pericardial effusion. Cannot determine valvular
   function or exclude valvular vegetations on the basis of this study.
   ---------
   Radiology Report CT CHEST W/O CONTRAST Study Date of [**2155-5-11**] 2:20 PM
   [**Last Name (LF) **],[**First Name7 (NamePattern1) **] [**Initial (NamePattern1) **] [**Last Name (NamePattern4) **] [**Hospital Unit Name 44**] [**2155-5-11**] SCHED
   CT CHEST W/O CONTRAST   Clip # [**Clip Number (Radiology) 2675**]
   Reason: r/o underlying PNA
   -----------------------------------------------------------------------
   ---------
   Final Report
   HISTORY: Bilateral pleural effusions. Evaluate for underlying
   pneumonia.
   TECHNIQUE: MDCT-acquired axial images were obtained through the chest
   without
   intravenous contrast. Contrast was withheld due to elevated BUN and
   creatinine levels. 5-mm, 1.25-mm, and coronal reformations were
   evaluated.
   CT OF THE CHEST WITHOUT INTRAVENOUS CONTRAST
   Comparison is made to multiple prior radiograph and prior CTA dated
   [**2155-4-15**].
   FINDINGS: The entire right lung is collapsed, and there is a large
   right
   simple pleural effusion occupying the entire right hemithorax, with
   fluid
   extension into the lateral chest wall. The left upper lobe, lingula,
   and
   superior segment of the left lower lobe remain aerated, with the
   basilar
   segments displaying atelectasis due to compression from an adjacent
   moderate
   simple left pleural effusion. The aerated lung appears clear, and
   without
   evidence of pneumonia. No pathologically enlarged central or axillary
   lymph
   nodes are identified. Secretions are noted within the central airway.
   There is
   a small pericardial effusion and atherosclerotic calcification noted
   within
   the right and left coronary circulation and aortic root and valve. The
   main
   pulmonary artery and right pulmonary artery are dilated, measuring
   greater
   than 3 cm, likely related to elevated pressures from the large
   effusions and
   atelectasis. Right IJ catheter terminates in the mid SVC.
   This examination was not tailored for subdiaphragmatic evaluation. The
   imaged
   portion of the upper abdomen displays placement of a biliary stent with
   significant improvement/resolution of intrahepatic biliary ductal
   dilatation,
   but persistent pancreatic ductal dilatation and stable appearance to
   duodenal
   diverticulum, large simple exophytic left upper pole renal cyst, and
   hyperdense right interpolar 2 cm renal cyst. The degree of ascites
   within the
   abdomen is slightly increased from [**2155-4-15**] exam.
   BONE WINDOWS: Degenerative changes of the glenohumeral joint are noted
   bilaterally. There are multilevel degenerative changes within the
   spine. No
   malignant-appearing osseous lesions are identified.
   CT Chest Impression:
   .
   1. No evidence of pneumonia. Large right pleural effusion causing
   complete
   collapse of the right lung, which was previously partially aerated.
   Component
   of mucus plugging may be superimposed and continued radiographic
   follow-up
   needed. Moderate left pleural effusion causing complete atelectasis of
   the
   basilar left lower lobe segments. Right chest wall edema.
   .
   2. Atherosclerotic calcifications within the aorta and coronary
   circulation.
   .
   3. Interval increase in intra-abdominal ascites, with resolution of
   previously identified intrahepatic biliary dilatation and stable
   appearance to
   simple and hyperdense renal lesions better described on previously
   performed
   dedicated CT abdomen. Pancreatic ductal dilatation persists.
   Microbiology: BCx: [**5-9**] + MRSA
   BCx: [**5-11**] GPC+
   UCx: Negative
   Assessment and Plan
   A/P: 82 M w/ recent admission for painless jaundice s/p ERCP with
   sphincterotomy and biliary stent c/b hypoxia requiring intubation,
   admitted with septic shock
   .
   Septic Shock: On admission was febrile, WBC > 30 with bandemia,
   tachycardic, increased RR.  Now with GPC in blood.  Unclear source, but
   must consider endocarditis, pulmonary, decubiti or GI source given
   recent instrumentation.  Patient without abdominal pain or jaundice to
   suggest acute cholangitis.
   .
   Goals of Care: Will need to meet with family today to discuss goals of
   care
 currently no escalation of care.
   .
   f/u Sputum, Blood, Urine Cx, Cdiff x 3 - MRSA+ Bacteremia - unclear
   source, ? parapneumonic effusion, endocarditis, complication of biliary
   stent placement.
   1.        Will treat broadly with Vanc/Zosyn/PO Vanco for C. Diff -
   consider d/c zosyn today as empirirc.
   2.        Titrate CVP to 10, bolus as needed, repeat venous O2 sat.
   3.        Switched to phenylephrine to avoid beta adrtenergic effect of
   levophed and resulting tachycardia.  Added vasopressin.  Check Mixed
   Venous O2 sat.  Adjust PRN.  Might need dobutamine for inotrpoic
   support but would defer at this time.
   4.        Transfuse as needed for Hct>30 if MvO2 is < 70%.
   5.        Basal cortisol level wnl, no [**Last Name (un) 45**] stim
   6.        Line re-positioned, f/u culture of tip.
   7.        TTE for endocarditis -> limited study.
   8.        Wound care consult.
   9.        Consider thoracentesis of effusion, imaging of abdomen.
   .
   Mental Status: With delerium on exam today.  Likely [**2-1**] to worsening
   renal failure, uremia, infection and other toxic derrangements.
   1.       Need to discuss goals of care with family.
   2.       Treat underlying infectious processes.
   3.       Hydrate, if oliguria persists may need CVVH/HD.
   .
   Hypoxia: Patient comfortable on 6L.  He is willing to be intubated.
   Hypoxia likely a result of pleural effusions, sepsis, volume
   recuscitation.
   1.        ABG this AM 7.35/45/132
   2.        Continue nasal cannula at this point.
   3.        Daily CXR
   4.        Add nebulizer prn
   .
   Pleural effusions: may be malignant pleural effusions vs. chf vs. pna
   1.        ECHO, cycle enzymes, daily EKG
   2.        Empirically treat for HAP with Vanc/Zosyn
 d/c zosyn once
   more stable.
   .
   Acute Renal Failure: likely pre-renal from sepsis/hypotension.  UOP has
   dropped off this morning, and now with rising Cr/lactate.  Added
   vasopressin for second pressor and goal of improved renal perfusion.
   Goal MAP of 70 for today.
   1.             Follow Cr.
   2.             Urine Lytes from [**5-11**] were Pre-Renal.  Maintain
   adequate CVP goal 10.
   .
   Biliary stricture: Patient with recent admission for painless jaudince
   requiring biliary stent and sphincterotomy.  Patient due to stent
   change in [**2155-6-1**].  Patient does not appear to have clinical signs of
   cholangitis at this point.
   1.        NPO for now
   2.        Trend LFTs
   3.        empirically treat with Zosyn for biliary organisms
   .
   CAD: MI in [**2106**]'s.  Give high dose ASA.  Enzymes negative x1 - and with
   negative set at OSH more than 12 hours apart.  No need to cycle
   further.
   .
   PUMP: Hold antihypertensives, pressors as needed.  Will repeat ECHO.
   Patient grossly volume overloaded, and may require aggressive diuresis
   once he's off pressors.
   .
   RHYTHM: known afib on coumadin.  Hold coumadin. Rate much improved
   after switch to neosynephrine.
   .
   ARF: Cr up to 1.9 from basline.
   1.        urine lytes show FENA 0.2%, pre-renal vs ATN in setting
   hypotension
   .
   Nutrition: Consult for low albumin.
   1.             Likely TPN, discuss goals of care with family.
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-5-10**] 04:00 PM
   Arterial Line - [**2155-5-10**] 08:29 PM
   Prophylaxis:
   DVT: elevated INR
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-05-13 12:10:00 Physician Attending Progress Note
Chief Complaint: shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo M w/afib on coumadin, CAD s/p MI, s/p recent admit with  ERCP
   w/sphincterotomy and biliary stent for high grade CBD stricture c/b
   shock, requiring pressors and intubation x 48hrs peri-procedure
   (brushings were "atypical" and CA [**65**]-9 very elevated, suspcious for
   pancreatic ca) transferred from OSH w/ shock, leukocytosis and
   hypoxemia.
   24 Hour Events:
   Increasingly lethargic overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2155-5-11**] 12:28 AM
   Vancomycin - [**2155-5-12**] 06:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2155-5-13**] 05:49 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2155-5-12**] 05:48 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-13**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 123 (104 - 123) bpm
   BP: 99/70(83) {93/69(80) - 124/87(284)} mmHg
   RR: 15 (10 - 25) insp/min
   SpO2: 75%--> 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 91.5 kg
   Height: 67 Inch
   CVP: 14 (8 - 20)mmHg
   Total In:
                                                                  1,661 mL
                                                                    309 mL
   PO:
   TF:
   IVF:
                                                                  1,661 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                    208 mL
                                                                    162 mL
   Urine:
                                                                    208 mL
                                                                    162 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,453 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 75%
   ABG: 7.32/36/99.[**Numeric Identifier 128**]/22/-6
   PaO2 / FiO2: 99
   Physical Examination
   General Appearance: Well nourished, No acute distress, lethargic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   L apex, Diminished: entire R lung, L lung decreased)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, No(t)
   Sedated, Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   240 K/uL
   160 mg/dL
   2.8 mg/dL  (1.7->2.4)
   22 mEq/L
   5.3 mEq/L
   72 mg/dL
   105 mEq/L
   135 mEq/L
   38.2 %
   20.4 K/uL
        [image002.jpg]
                             [**2155-5-11**]  03:25 PM
                             [**2155-5-11**]  03:30 PM
                             [**2155-5-11**]  04:28 PM
                             [**2155-5-11**]  09:16 PM
                             [**2155-5-12**]  03:15 AM
                             [**2155-5-12**]  04:36 AM
                             [**2155-5-12**]  01:04 PM
                             [**2155-5-12**]  02:56 PM
                             [**2155-5-13**]  04:11 AM
                             [**2155-5-13**]  05:19 AM
   WBC
   23.1
   20.4
   Hct
   41.1
   38.2
   Plt
   309
   240
   Cr
   2.0
   2.4
   2.6
   2.8
   TCO2
   22
   23
   18
   17
   19
   19
   Glucose
   167
   168
   160
   Other labs: PT / PTT / INR:32.2/40.5/3.3, CK / CKMB /
   Troponin-T:35/3/0.01, ALT / AST:81/141, Alk Phos / T Bili:323/2.0,
   Differential-Neuts:93.7 %, Band:0.0 %, Lymph:3.9 %, Mono:2.1 %, Eos:0.2
   %, Lactic Acid:2.1 mmol/L, Albumin:1.9 g/dL, LDH:221 IU/L, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:5.9 mg/dL
   Imaging: no new studies
   Microbiology: [**5-9**]--mrsa in blood
   [**5-11**]-blood mrsa
   Assessment and Plan
   82 yo M w/afib on coumadin, CAD s/p MI, s/p recent admit with  ERCP
   w/sphincterotomy and biliary stent for high grade CBD stricture c/b
   shock, requiring pressors and intubation x 48hrs peri-procedure
   (brushings were "atypical" and CA [**65**]-9 very elevated, suspicious for
   pancreatic ca)
   Transferred from OSH w/ septic shock from mrsa bacteremia w/ continued
   pressor requirements, large b/l pleural effusions with compressive
   atelectasis, leukocytosis, and progressive ARF
   Poor overall prognosis and now with multiorgan failing.  Ongoing
   discussions regarding goals of care and possible transition from
   dnr/dni without escalation to comfort care today, given worsening
   lethargy/ms/pain.
   Main issues remain:
   # Shock--from mrsa bacteremia
        possible sources -> lungs/pna + effusions, bowel, skin (decubs)
        given leukocytosis, diarrhea, and recent antibx also concern for c
   diff
   -Continue pressors--Neo and vaso--weaning as tolerated, neo nearly off
   -Bolus IVF for CVP goal at least 10
   -continue broad spectum abx
 zosyn/IV vanco/ --refusing PO
   Vanco
change to IV flagyl pending 3rd c diff cx.
   - Tapping effusion and consideration to reimaging of abd discussed
   (lfts improving but with sig pain on palpation)
ongoing  discussion
   with family regarding goals of care, as family seem to moving toward
   comfort and do not wish for escalation of care or aggressive
   interventions/procedures given overall poor prognosis and inoperable
   malignancy.  Palliative care c/s to further assist family.
   # Hypoxemia/respiratory distress
        [**2-1**] pleural effusions + pulm edema (BNP 10K at OSH) + probable pna
   Unable to diurese as requiring pressors.
   Continue Abx as above
   Cont BDs as tolerated
   Morphine for air-hunger
   Extensive discussions with family who understand poor prognoisis and
   risks associated with potentially therapeutic interventions
      such as [**Female First Name (un) **]/bronch given tenuous status
   #  ARF
   likely ATN /intravascular depletion from sepsis.
   Renally dose meds.
   # Leukocytosis
   remains elevated with mutliple potential  sources of persistent
   infection including pleural fluid, sacral decub ? c diff
   continue broad coverage
   goal of care discussion with family as noted
   # pain---morphine prn
   #  Afib: Holding BB given pressor requirements
    Holding coumadin given supratherapeutic INR.
   # Sacral and b/l heel decubs: wound care
   # CAD
   Holding BB, ACEI while req pressors
   cont asa if able to tol po med
   ICU Care
   Nutrition:
   Comments: NPO given somnolence and resp status
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-5-10**] 04:00 PM
   Arterial Line - [**2155-5-10**] 08:29 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI, no escalation of care
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2155-05-14 07:54:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 ARTERIAL LINE - STOP [**2155-5-13**] 07:00 PM
   CMO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-5-12**] 06:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2155-5-13**] 05:49 AM
   Infusions:
   Morphine Sulfate - 5 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2155-5-13**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-14**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.4
   HR: 112 (109 - 126) bpm
   BP: 96/70(81) {93/64(77) - 99/75(85)} mmHg
   RR: 8 (6 - 15) insp/min
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92.5 kg (admission): 91.5 kg
   Height: 67 Inch
    CVP: 0 (0 - 14)mmHg
   Total In:
                                                                    339 mL
                                                                     26 mL
   PO:
   TF:
   IVF:
                                                                    339 mL
                                                                     26 mL
   Blood products:
   Total out:
                                                                    291 mL
                                                                    110 mL
   Urine:
                                                                    291 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     48 mL
                                                                    -84 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   240 K/uL
   12.0 g/dL
   160 mg/dL
   2.8 mg/dL
   22 mEq/L
   5.3 mEq/L
   72 mg/dL
   105 mEq/L
   135 mEq/L
   38.2 %
   20.4 K/uL
        [image002.jpg]
                             [**2155-5-11**]  03:25 PM
                             [**2155-5-11**]  03:30 PM
                             [**2155-5-11**]  04:28 PM
                             [**2155-5-11**]  09:16 PM
                             [**2155-5-12**]  03:15 AM
                             [**2155-5-12**]  04:36 AM
                             [**2155-5-12**]  01:04 PM
                             [**2155-5-12**]  02:56 PM
                             [**2155-5-13**]  04:11 AM
                             [**2155-5-13**]  05:19 AM
   WBC
   23.1
   20.4
   Hct
   41.1
   38.2
   Plt
   309
   240
   Cr
   2.0
   2.4
   2.6
   2.8
   TCO2
   22
   23
   18
   17
   19
   19
   Glucose
   167
   168
   160
   Other labs: PT / PTT / INR:32.2/40.5/3.3, CK / CKMB /
   Troponin-T:35/3/0.01, ALT / AST:81/141, Alk Phos / T Bili:323/2.0,
   Differential-Neuts:93.7 %, Band:0.0 %, Lymph:3.9 %, Mono:2.1 %, Eos:0.2
   %, Lactic Acid:2.1 mmol/L, Albumin:1.9 g/dL, LDH:221 IU/L, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   82 y/o M with MRSA sepsis and suspicion for pancreatic cancer, made CMO
   yesterday.
   Patient is  CMO, comfortable on a morphine gtt. Family to come by
   today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-5-10**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2155-05-14 12:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo M w/afib on coumadin, CAD s/p MI, s/p recent admit with  ERCP
   w/sphincterotomy and biliary stent for high grade CBD stricture c/b
   shock, requiring pressors and intubation x 48hrs peri-procedure
   (brushings were "atypical" and CA [**65**]-9 very elevated, suspicious for
   pancreatic ca)
   24 Hour Events:
 ARTERIAL LINE - STOP [**2155-5-13**] 07:00 PM
   transitioned to CMO,
   morphine and prn ativan
   meds, antibx dc/'d
   History obtained from Medical records, HO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-5-12**] 06:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2155-5-13**] 05:49 AM
   Infusions:
   Morphine Sulfate - 5 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2155-5-13**] 06:30 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-14**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 95 (95 - 126) bpm
   BP: 96/70(81) {93/64(77) - 96/70(81)} mmHg
   RR: 10 (6 - 10) insp/min
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92.5 kg (admission): 91.5 kg
   Height: 67 Inch
             Total In:
                                                                    339 mL
                                                                     47 mL
   PO:
             TF:
   IVF:
                                                                    339 mL
                                                                     47 mL
   Blood products:
   Total out:
                                                                    291 mL
                                                                    140 mL
   Urine:
                                                                    291 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     48 mL
                                                                    -93 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, agonal breathing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   240 K/uL
   160 mg/dL
   2.8 mg/dL
   22 mEq/L
   5.3 mEq/L
   72 mg/dL
   105 mEq/L
   135 mEq/L
   38.2 %
   20.4 K/uL
        [image002.jpg]
                             [**2155-5-11**]  03:25 PM
                             [**2155-5-11**]  03:30 PM
                             [**2155-5-11**]  04:28 PM
                             [**2155-5-11**]  09:16 PM
                             [**2155-5-12**]  03:15 AM
                             [**2155-5-12**]  04:36 AM
                             [**2155-5-12**]  01:04 PM
                             [**2155-5-12**]  02:56 PM
                             [**2155-5-13**]  04:11 AM
                             [**2155-5-13**]  05:19 AM
   WBC
   23.1
   20.4
   Hct
   41.1
   38.2
   Plt
   309
   240
   Cr
   2.0
   2.4
   2.6
   2.8
   TCO2
   22
   23
   18
   17
   19
   19
   Glucose
   167
   168
   160
   Other labs: PT / PTT / INR:32.2/40.5/3.3, CK / CKMB /
   Troponin-T:35/3/0.01, ALT / AST:81/141, Alk Phos / T Bili:323/2.0,
   Differential-Neuts:93.7 %, Band:0.0 %, Lymph:3.9 %, Mono:2.1 %, Eos:0.2
   %, Lactic Acid:2.1 mmol/L, Albumin:1.9 g/dL, LDH:221 IU/L, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:5.9 mg/dL
   Imaging: no new imaging
   Microbiology: no new labs
   Assessment and Plan
   82 yo M w/afib on coumadin, CAD s/p MI, s/p recent admit with  ERCP
   w/sphincterotomy and biliary stent for high grade CBD stricture c/b
   shock, requiring pressors and intubation x 48hrs peri-procedure
   (brushings were "atypical" and CA [**65**]-9 very elevated, suspicious for
   pancreatic ca)
   Transferred from OSH w/ septic shock from mrsa bacteremia w/ continued
   pressor requirements, large b/l pleural effusions with compressive
   atelectasis, leukocytosis, and progressive ARF
   Poor overall prognosis and now with multiorgan failing.  Ongoing
   discussions regarding goals of care and possible transition from
   dnr/dni without escalation to comfort care today, given worsening
   lethargy/ms/pain.
   Main issues remain:
   # Shock--from mrsa bacteremia
        possible sources -> lungs/pna + effusions, bowel, skin (decubs)
        given leukocytosis, diarrhea, and recent antibx also concern for c
   diff
   -Continue pressors--Neo and vaso--weaning as tolerated, neo nearly off
   -Bolus IVF for CVP goal at least 10
   -continue broad spectum abx
 zosyn/IV vanco/ --refusing PO
   Vanco
change to IV flagyl pending 3rd c diff cx.
   - Tapping effusion and consideration to reimaging of abd discussed
   (lfts improving but with sig pain on palpation)
ongoing  discussion
   with family regarding goals of care, as family seem to moving toward
   comfort and do not wish for escalation of care or aggressive
   interventions/procedures given overall poor prognosis and inoperable
   malignancy.  Palliative care c/s to further assist family.
   # Hypoxemia/respiratory distress
        [**2-1**] pleural effusions + pulm edema (BNP 10K at OSH) + probable pna
   Unable to diurese as requiring pressors.
   Continue Abx as above
   Cont BDs as tolerated
   Morphine for air-hunger
   Extensive discussions with family who understand poor prognoisis and
   risks associated with potentially therapeutic interventions
      such as [**Female First Name (un) **]/bronch given tenuous status
   #  ARF
   likely ATN /intravascular depletion from sepsis.
   Renally dose meds.
   # Leukocytosis
   remains elevated with mutliple potential  sources of persistent
   infection including pleural fluid, sacral decub ? c diff
   continue broad coverage
   goal of care discussion with family as noted
   # pain---morphine prn
   #  Afib: Holding BB given pressor requirements
    Holding coumadin given supratherapeutic INR.
   # Sacral and b/l heel decubs: wound care
   # CAD
   Holding BB, ACEI while req pressors
   cont asa if able to tol po med
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-5-10**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: